US07378417B2
7-Difluoromethyl-5-(3-ethoxy-4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid[3-(morpholine-4-sulfonyl)-phenyl]-amide
The title compound was prepared from 7-difluoromethyl-5-(3-ethoxy-4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.12) and 3-(morpholine-4-sulfonyl)-phenylamine [CAS 22184-97-0; commercially available] according to general procedure II. Light yellow solid. MS (ISP) 624.3 [(M−H)−]; mp 231° C.

reactant | 7-difluoromethyl-5-(3-ethoxy-4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC(C1=CC(=NC=2N1N=CC2C(=O)O)C2=CC(=C(C=C2)C(F)(F)F)OCC)F | C17H12F5N3O3
reactant | 3-(morpholine-4-sulfonyl)-phenylamine | N1(CCOCC1)S(=O)(=O)C=1C=C(C=CC1)N | C10H14N2O3S
product | 7-Difluoromethyl-5-(3-ethoxy-4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid[3-(morpholine-4-sulfonyl)-phenyl]-amide | N1(CCOCC1)S(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN2C1N=C(C=C2C(F)F)C2=CC(=C(C=C2)C(F)(F)F)OCC | C27H24F5N5O5S
